US07935707B2
A) 1-Cyclopropyl-2-(3-trifluoromethyl-phenyl)-1H-imidazole
8.17 ml=6.62 g (113.6 mmol) of cyclopropylamine and 8.90 g (113.6 mmol) of ammonium acetate were added to a solution of 6.80 g (37.9 mmol) of 3-(trifluoromethyl)benzaldehyde in 60 ml of MeOH and the reaction mixture was cooled down to 0° C. While stirring, 9.59 ml=16.49 g (113.6 mmol) of glyoxal solution (40% in water) was added and then the reaction was warmed up to 50° C. After cooling down to RT, the solvents were evaporated and the residue dissolved in water and Et2O. The reaction mixture was extracted three times with Et2O; the organic phases were washed with water, dried over magnesium sulfate, filtered and evaporated. The residue was purified by flash column chromatography (CH2Cl2) to give 1.96 g (21%) of the title compound as light red oil. MS: 253.1 (MH+).

reactant | cyclopropylamine | 113.6 mmol, 6.62 g | C1(CC1)N | C3H7N
reactant | ammonium acetate | 113.6 mmol, 8.90 g | C(C)(=O)[O-].[NH4+]
reactant | 3-(trifluoromethyl)benzaldehyde | 37.9 mmol, 6.80 g | FC(C=1C=C(C=O)C=CC1)(F)F | C8H5F3O
reactant | glyoxal | 113.6 mmol, 16.49 g | C(=O)C=O | C2H2O2
solvent | MeOH | 60 ml | CO | CH4O
product | 1-Cyclopropyl-2-(3-trifluoromethyl-phenyl)-1H-imidazole | 1.96 g, 21% | C1(CC1)N1C(=NC=C1)C1=CC(=CC=C1)C(F)(F)F | C13H11F3N2
